US09062004B2
Synthesis of t-Butyl N′-(3,3,5,5-Tetramethylcyclohexylidene)hydrazine carboxylate
3,3,5,5-Tetramethylcyclohexanone (7.7 g, 0.05 moles) was dissolved in DMF (50 mL) and t-butyl carbazate (6.6 g, 0.05 moles) was added to give a clear solution. Left to stand over the weekend. Poured into water and extracted into ethyl acetate. Washed with water and dried over anhydrous magnesium sulphate. Evaporated to give a white solid. Triturated with ether and dried in a desiccator to give the product as a white solid. (10.4 g, 78%). 1H NMR (300 MHz DMSO-d6) mixture of isomers 9.5 and 7.95 (brs, 1H), 2.95 (s, 1H), 2.75 (s, 1H), 2.1 (s, 2H), 1.95 (s, 2H), 1.4 (s, 9H), 0.9 (2s, 12H).

reactant | 3,3,5,5-Tetramethylcyclohexanone | 0.05 moles, 7.7 g | CC1(CC(CC(C1)(C)C)=O)C | C10H18O
reactant | t-butyl carbazate | 0.05 moles, 6.6 g | C(NN)(=O)OC(C)(C)C | C5H12N2O2
reactant | water | O | H2O
solvent | DMF | 50 mL | CN(C)C=O | C3H7NO
product | t-Butyl N′-(3,3,5,5-Tetramethylcyclohexylidene)hydrazine carboxylate | CC1(CC(CC(C1)(C)C)=NNC(=O)OC(C)(C)C)C | C15H28N2O2
